US04745116
A solution of methyl 2-isopropoxycarbonylamino-4-benzyloxy-6-methyl-benzoate (171 mg, 0.000487 mol) in sodium hydroxide (4% solution, 10 ml) and 1,2-dimethoxyethane (10 ml) was refluxed for 4 hours and then left at room temperature overnight. The organic solvent was removed under reduced pressure, the aqueous extract was acidified to pH 3 with 5% hydrochloric acid. A white suspension was formed which was extracted with ethyl acetate. The ethyl acetate layer was dried over magnesium sulphate and evaporated to give a solid. This solid was further purified by column chromatography (50% ethyl acetate: pet. ether) to give 2-(isopropoxy)carbonylamino-4-benzyloxy-6-methyl-benzoic acid (97 mg), m.p. 137°-139° C., IR (CHCl3): 2500-3200, 1721, 1660, 1610, 1585, 1520 cm-1 ; H-NMR (acetone-d6): 1.9 (d, 6H, CH3CHCH3), 3.10 (s, 3H, Me), 5.4 (m, 1H, CH3CHCH3), 5.4 (s, 2H, PhCH2), 7.2 (m, 1H, ArH), 8.0 (m, 5H, Ph).

reactant | methyl 2-isopropoxycarbonylamino-4-benzyloxy-6-methyl-benzoate | 0.000487 mol, 171 mg | C(C)(C)OC(=O)NC1=C(C(=O)OC)C(=CC(=C1)OCC1=CC=CC=C1)C | C20H23NO5
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 2-(isopropoxy)carbonylamino-4-benzyloxy-6-methyl-benzoic acid | 97 mg | C(C)(C)OC(=O)NC1=C(C(=O)O)C(=CC(=C1)OCC1=CC=CC=C1)C | C19H21NO5
